US05430153
3-Acetyl-8-methyl-4-isopropylamino-2-quinolinone (230)
3-Acetyl-8-methyl-4-methylsulfoxy-2-quinolinone (2.63g, 0.01 mol) and isopropylamine (0.6g, 0.01 mol) were used, but the reaction was carded out as the above process of example 37 to obtain the desired product (2.59g, yield: 68%).

reactant | 3-Acetyl-8-methyl-4-methylsulfoxy-2-quinolinone | 0.01 mol, 2.63g | C(C)(=O)C=1C(NC2=C(C=CC(=C2C1C)OS(=O)(=O)O)C)=O | C13H13NO6S
reactant | isopropylamine | 0.01 mol, 0.6g | C(C)(C)N | C3H9N
product | 3-Acetyl-8-methyl-4-isopropylamino-2-quinolinone | 2.59g, yield: 68% | C(C)(=O)C=1C(NC2=C(C=CC=C2C1NC(C)C)C)=O | C15H18N2O2
